US04282242
The procedure of Example 13 was repeated, reacting a slurry of N-chlorosuccinimide (3.72 g., 27.9 mmoles) in 50 ml. of carbon tetrachloride with 2,5-dichlorothiophenol (5.0 g., 27.9 mmoles) in 25 ml. of carbon tetrachloride. 2,5-Dichlorobenzenesulfenyl chloride (5.1 g.) was isolated as an oil.

reactant | N-chlorosuccinimide | 27.9 mmoles, 3.72 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2,5-dichlorothiophenol | 27.9 mmoles, 5.0 g | ClC1=C(C=C(C=C1)Cl)S | C6H4Cl2S
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,5-Dichlorobenzenesulfenyl chloride | 5.1 g | ClC1=C(C=C(C=C1)Cl)SCl | C6H3Cl3S
